US07208493B2
2-[(2,4-Diamino-pteridin-6-ylmethyl)-amino]-3-(4-hydroxy-phenyl)-propionic acid tert-butyl ester
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (31.2 mg, 0.116 mmol) in anhydrous N,N dimethylacetamide was added 2-amino-3-(4-hydroxy-phenyl)-propionic acid tert-butyl ester (30.22 mg, 0.127 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 17.2 mg product was obtained. Yield: 71%; 1H NMR (500 MHz, DMSO-d6): δ 1.33577 (s, 9H), 2.94185–3.02295 (m, 2H), 3.6550(b, 1H), 4.0878 (s, 2H), 6.70174–6.72384 (dd, J1=8.545 Hz, J2=2.59 Hz, 2H), 7.02394–7.04103 (d, J=8.545 Hz, 2H); 9.38501 (s, 1H); ESI-MS: 412 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.116 mmol, 31.2 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | 2-amino-3-(4-hydroxy-phenyl)-propionic acid tert-butyl ester | 0.127 mmol, 30.22 mg | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)O)N)=O | C13H19NO3
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 2-[(2,4-Diamino-pteridin-6-ylmethyl)-amino]-3-(4-hydroxy-phenyl)-propionic acid tert-butyl ester | 17.2 mg, Yield: 71% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)O)NCC=1N=C2C(=NC(=NC2=NC1)N)N)=O | C20H25N7O3
